US06107319
Step A: Preparation of [(4-bromophenyl)thio]tris(1-methylethyl)silane
To a solution of 45 grams of 4-bromothiophenol in 250 mL of THF was added 53 mL of triisopropylsilyl chloride and 38 mL of DBU (1,8-diazabicyclo[5.4.0]undec-7-ene) under a nitrogen atmosphere. The reaction mixture heated spontaneously to reflux. The reaction mixture was allowed to cool and was diluted with 500 mL of hexanes. The resultant white suspension was filtered through a pad of Celite® (diatomaceous earth), and the filter cake was washed with additional hexanes and 100 mL of ether. The filtrate was washed with ice-cold 0.1 N aqueous HCl, water, aqueous NaHCO3, and saturated aqueous NaCl, dried over MgSO4, and concentrated under vacuum to obtain 82 grams of the title compound of Step A as a clear oil. 1H NMR (CDCl3, 300 MHz) δ 1.1 (m, 18H), 1.2 (m, 3H), 7.3-7.4 (m, 4H).

reactant | 4-bromothiophenol | 45 grams | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | triisopropylsilyl chloride | 53 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | DBU | 38 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | [(4-bromophenyl)thio]tris(1-methylethyl)silane | 82 grams | BrC1=CC=C(C=C1)S[Si](C(C)C)(C(C)C)C(C)C | C15H25BrSSi
